data/mechanism_extracts/JACS/10.1021_jacs.2c07726.json
{"doi": "10.1021_jacs.2c07726", "journal": "JACS", "is_review": false, "rxn_class_summary": "Photosensitized dearomative para-cycloaddition of quinolines with alkenes/allenes via Lewis acid activation and triplet energy transfer, proceeding through a stepwise biradical pathway.", "mechanism_family": ["photoredox_combined", "biradical", "radical_polar_crossover"], "electrochemical_role": null, "key_intermediates": [{"name": "BF3-activated quinoline ground-state complex (1A, S0)", "smiles": null, "role": "reactive"}, {"name": "Triplet BF3-quinoline complex (3A, T1) generated by Dexter energy transfer from [Ir-F]*", "smiles": null, "role": "reactive"}, {"name": "Triplet 1,5-biradical (3B) after radical addition of triplet quinoline to alkene", "smiles": null, "role": "reactive"}, {"name": "Open-shell singlet biradical (1B / OSS) formed by ISC, long-lived enough to allow bond rotation", "smiles": null, "role": "reactive"}, {"name": "Closed-shell singlet cycloadduct (1C, para product) after radical recombination", "smiles": null, "role": "reactive"}, {"name": "Ortho cycloadduct (1D), photolabile, can be re-sensitized and fragment back", "smiles": null, "role": "off_pathway"}], "electron_flow": "Blue-light excitation of [Ir(dFCF3ppy)2dtbbpy]PF6 produces the Ir triplet which undergoes Dexter triplet-triplet energy transfer to the BF3-activated quinoline, lowering its ET; the triplet quinoline biradical adds to the alkene to give a triplet 1,5-biradical, which ISCs to an open-shell singlet biradical that either fragments back (reversible) or recombines (selectivity-determining) to the closed-shell para cycloadduct, with a second EnT photo-eroding any ortho adduct.", "rate_determining_step": "Intramolecular radical recombination of the open-shell singlet biradical (OSS->CSS via TP-B) is the selectivity-determining step; radical addition is reversible and not selectivity-determining.", "probe_reagents": [{"name": "E-2D-labeled homoallyl MOM ether (alkene 59)", "smiles": "[2H]/C=C/CCOCOC", "purpose": "isotope_label", "observation": "Recovered alkene was scrambled to 1:1 E/Z and products 60a/60b formed 1:1, indicating reversible radical addition and that recombination is rate/selectivity-determining."}, {"name": "13C natural-abundance KIE (Singleton method) on 5-Me-quinoline and 5-OAc-quinoline", "smiles": null, "purpose": "KIE", "observation": "Strong 13C KIE at C5 (1.017 for 5-Me-quinoline; 1.019 for 5-OAc-quinoline) consistent with C-C bond formation at C5 in the selectivity-determining recombination step."}, {"name": "Stern-Volmer quenching with quinoline vs quinoline-BF3 vs 1-hexene", "smiles": null, "purpose": "redox_probe", "observation": "Quinoline and quinoline-BF3 quench [Ir-F]* with similar efficiency; 1-hexene does not quench, showing EnT occurs to the quinoline (Lewis acid not strictly required for EnT)."}, {"name": "Control without BF3 using 2D-alkene 59", "smiles": null, "purpose": "intermediate_trap", "observation": "<2% product and no E/Z scrambling of alkene; BF3 is needed to lower the radical addition barrier."}, {"name": "Cyclopropyl-quinoline trap (6-Cl-quinoline giving fused product 66; 5-CO2Me-quinoline giving cyclobutane 73)", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened/rearranged products consistent with a second EnT to an ortho cycloadduct, C-Cl or C-C homolysis, and recombination."}, {"name": "X-ray crystallography of regioisomers 13 and 14", "smiles": null, "purpose": "other", "observation": "Confirmed identity of 8-to-5 vs 5-to-8 regioisomers."}], "evidence_types_used": ["KIE", "H/D_labeling", "radical_clock", "DFT", "UV_vis", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "An alternative mechanism in which the first intermolecular radical addition is selectivity-determining was excluded by the 2D-alkene scrambling experiment and 13C KIE. DFT mapped triplet (T), open-shell singlet (OSS), and closed-shell singlet (CSS) surfaces, with two transition points (TP-A back to starting materials, TP-B to cycloadduct). Lewis acid plays a dual role: minor lowering of ET for EnT (Stern-Volmer shows EnT possible without LA) and major lowering of the radical addition barrier by increasing quinoline electrophilicity. Regiochemistry (5-to-8 vs 8-to-5) is controlled by biradical dipole stabilization (solvent polarity) and hyperconjugative stabilization (substituent position); endo selectivity is driven by London dispersion interactions with the pyridine ring (DFT-D3 vs non-dispersion-corrected comparison). Ortho adducts are photolabile (lower ET than [Ir-F]) and undergo a second EnT, funneling the reaction toward para products."}
